US04879292
To a solution of 2-[2-(4-phenoxyphenoxy)ethylthio]pyrimidine (324 mg, 1.0 mmol) in carbon tetrachloride (3 ml), there was added N-chlorosuccinimide (160 mg, 1.2 mmol) with stirring under ice-cooling. The reaction system was gradually elevated to room temperature, and stirring was continued overnight. The precipitate was separated by filtration, and the filtrate was concentrated. Recrystallization of the residue from cyclohexane gave 2-[1-chloro-2-(4-phenoxyphenoxy)ethylthio]pyrimidine (268 mg) as pale yellow crystals. M.P., 86.0° C.

reactant | 2-[2-(4-phenoxyphenoxy)ethylthio]pyrimidine | 1.0 mmol, 324 mg | O(C1=CC=CC=C1)C1=CC=C(OCCSC2=NC=CC=N2)C=C1 | C18H16N2O2S
reactant | N-chlorosuccinimide | 1.2 mmol, 160 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[1-chloro-2-(4-phenoxyphenoxy)ethylthio]pyrimidine | 268 mg | ClC(COC1=CC=C(C=C1)OC1=CC=CC=C1)SC1=NC=CC=N1 | C18H15ClN2O2S
